US07456164B2
4-{4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}thiomorpholine-1-oxide
To a solution of 4-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-thiomorpholine (200 mg, 0.494 mmol) in TFA (0.67 ml) at 5 to 10° C. was added dropwise a solution of trifluoro-peracetic acid [4M solution prepared by the addition of 27.5% H2O2 (0.94 ml) to TFA (1.56 ml)] and stirred at 5 to 10° C. for 1 hour. The reaction mixture was diluted with DCM (5 ml) and NaOH (5M solution, 4 ml) was added to attain pH14. The mixture was extracted with DCM ((2×5 ml), the combined DCM extracts were washed with saturated aqueous brine (10 ml), dried over MgSO4, filtered and concentrated in vacuo. The isolated yellow oil was purified by column chromatography on silica eluting with DCM(95):MeOH(4):NH3(I) to give the title compound as a yellow oil (165 mg, 79%). 1H NMR (400 MHz, CDCl3) δ 7.20 (d, 2H), 6.87 (d, 2H), 4.02 (t, 2H), 3.81-3.69 (m, 2H), 3.59-3.43 (m, 2H), 2.99-2.82 (m, 2H), 2.76-2.2.59 (m, 6H), 2.53 (br s, 4H), 2.46 (s, 2H), 2.31-1.73 (m, 12H).

reactant | 4-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-thiomorpholine | 0.494 mmol, 200 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCSCC1 | C23H36N2O2S
reactant | trifluoro-peracetic acid | FC(C(=O)OO)(F)F | C2HF3O3
reactant | H2O2 | 0.94 ml | OO | H2O2
solvent | TFA | 0.67 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | NaOH | 5M, 4 ml | [OH-].[Na+]
solvent | TFA | 1.56 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-{4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}thiomorpholine-1-oxide | 165 mg, 79% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCS(CC1)=O | C23H36N2O3S
